US04464531
Following a procedure similar to that of Example 1 but using 2.622 g of 5-carbamoyl-1-(4-nitrobenzyl)imidazolium-4-olate and 8.220 g of 2,3,4,6-tetra-O-acetyl-α-D-galactopyranosyl bromide there was obtained 3.857 g of 1-(4-nitrobenzyl)-4-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyl)oxy-1H-imidazole-5-carboxamide.

reactant | 5-carbamoyl-1-(4-nitrobenzyl)imidazolium-4-olate | 2.622 g | C(N)(=O)C1=C(NC=[N+]1CC1=CC=C(C=C1)[N+](=O)[O-])[O-] | C11H10N4O4
reactant | 2,3,4,6-tetra-O-acetyl-α-D-galactopyranosyl bromide | 8.220 g | C(C)(=O)O[C@H]1[C@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)Br | C14H19BrO9
product | 1-(4-nitrobenzyl)-4-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyl)oxy-1H-imidazole-5-carboxamide | 3.857 g | [N+](=O)([O-])C1=CC=C(CN2C=NC(=C2C(=O)N)O[C@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](O2)COC(C)=O)C=C1 | C25H28N4O13
